US07781431B2
Step 3: methyl 5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (1 M) of methyl 4-nitro-5-[(E)-2-phenylethenyl]thiophene-2-carboxylate in triethyl phosphite was heated to reflux for 28 h. After cooling down a part of the solvent was evaporated under high vacuum (2 mbar, water bath 60° C.) then the residue was purified by flash chromatography on silica gel (1:4 acetone/toluene) to afford the title compound (32%) as a solid.

reactant | methyl 4-nitro-5-[(E)-2-phenylethenyl]thiophene-2-carboxylate | 1 M | [N+](=O)([O-])C=1C=C(SC1\C=C\C1=CC=CC=C1)C(=O)OC | C14H11NO4S
solvent | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | methyl 5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 32% | C1(=CC=CC=C1)C1=CC2=C(N1)C=C(S2)C(=O)OC | C14H11NO2S
